US06900215B2
A suspension of crude 5′-[7-(1,1-dimethoxyethyl)imidazo[1,2-α]pyrimidin-3-yl]-2′-fluorobiphenyl-2-carbonitrile (1.21 g) in 2.5N hydrochloric acid (40 ml) was stirred at 50° C. for 15 h. After cooling to ambient temperature the mixture was made neutral with solid sodium hydrogencarbonate, added portionwise over 15 min. The aqueous was extracted with 2% methanol in dichloromethane (2×75 ml), the organics combined, dried over anhydrous magnesium sulfate, filtered and pre-adsorbed onto silica. Purification by chromatography on silica, eluting with dichloromethane (+0.5% triethylamine) on a gradient of methanol (1-5%) gave a solid. Trituration with diethyl ether afforded 5′-(7-acetylimidazo[1,2-α]pyrimidin-3-yl)-2′-fluorobiphenyl-2-carbonitrile (0.82 g, 77%) as a yellow solid: δH (360 MHz, CDCl3) 2.83 (3H, s), 7.44 (1H, t, J 9), 7.53-7.74 (6H, m), 7.87 (1H, dd, J 8 and 1), 8.12 (1H, s), 8.92 (1H, d, J 7); m/z (ES+) 357 (M++H).

reactant | 5′-[7-(1,1-dimethoxyethyl)imidazo[1,2-α]pyrimidin-3-yl]-2′-fluorobiphenyl-2-carbonitrile | 1.21 g | COC(C)(OC)C1=NC=2N(C=C1)C(=CN2)C=2C=CC(=C(C2)C=2C(=CC=CC2)C#N)F | C23H19FN4O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | hydrochloric acid | 2.5N, 40 ml | Cl | ClH
product | 5′-(7-acetylimidazo[1,2-α]pyrimidin-3-yl)-2′-fluorobiphenyl-2-carbonitrile | 0.82 g, 77% | C(C)(=O)C1=NC=2N(C=C1)C(=CN2)C=2C=CC(=C(C2)C=2C(=CC=CC2)C#N)F | C21H13FN4O
